US09283229B2
Step 1: Synthesis of ethyl 3-(1-methyl-1H-pyrazol-5-yl)-3-oxo-2-(thiophen-3-yl)propanoate
To a solution of 1-methyl-1H-pyrazole-5-carboxylic acid (300 mg, 2.4 mmol) in DMF (7 mL) was added CDI (372 mg, 2.6 mmol), and the reaction mixture was heated to 50° C. for two hours. Then the mixture was cooled to −5° C., a solution of ethyl 2-(thiophen-3-yl)acetate (444 mg, 2.6 mmol) in DMF (1 mL) was added to the mixture and NaH (330 mg, 8.2 mmol) was added in portions. The mixture was stirred at 0° C. for 10 minutes, then warmed to room temperature and stirred for 1 hour. Ice water was added, followed by a standard aqueous/EtOAc workup. Crude was purified by column chromatography (PE:EtOAc=5:1) (150 mg, yield: 22.7%).

reactant | 1-methyl-1H-pyrazole-5-carboxylic acid | 2.4 mmol, 300 mg | CN1N=CC=C1C(=O)O | C5H6N2O2
reactant | CDI | 2.6 mmol, 372 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ethyl 2-(thiophen-3-yl)acetate | 2.6 mmol, 444 mg | S1C=C(C=C1)CC(=O)OCC | C8H10O2S
reactant | NaH | 8.2 mmol, 330 mg | [H-].[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 3-(1-methyl-1H-pyrazol-5-yl)-3-oxo-2-(thiophen-3-yl)propanoate | yield: 22.7% | CN1N=CC=C1C(C(C(=O)OCC)C1=CSC=C1)=O | C13H14N2O3S
